US04820827
5-Bromo-3-(4-fluorophenyl)-2-(4-methylthiophenyl)thiophene
A solution of 3-(4-fluorophenyl)-2-(4-methylthiophenyl)thiophene (15 g, 50 mmole) in methylene chloride (150 ml) was diluted with 150 ml of acetic acid and cooled to about 5°. A 1M solution of bromine in acetic acid (55 ml, 1.1 equiv.) was then added dropwise. The reaction mixture was stirred at 0° for 1.5 hours and then concentrated in vacuo. The residue was dissolved in ethyl acetate and the solution washed with saturated aqueous sodium bicarbonate and brine, dried, and concentrated in vacuo. Recrystallization from ethanol gave the title compound (15.4 g), m.p. 113°-116°.

reactant | 3-(4-fluorophenyl)-2-(4-methylthiophenyl)thiophene | 50 mmole, 15 g | FC1=CC=C(C=C1)C1=C(SC=C1)C1=CC=C(C=C1)SC | C17H13FS2
reactant | bromine | BrBr | Br2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 55 ml, 1.1 equiv. | C(C)(=O)O | C2H4O2
product | 5-Bromo-3-(4-fluorophenyl)-2-(4-methylthiophenyl)thiophene | 15.4 g | BrC1=CC(=C(S1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)F | C17H12BrFS2
